US06881746B2
Step 8, 2(R)-Hydroxy-3-[4-({indan-5-yl-[4-(4-trifluoromethoxyphenyl)thiazol-2-yl]amino}methyl)benzoylamino]propionic acid:
2(R)-Hydroxy-3-[4-({indan-5-yl-[4-(4-trifluoromethoxyphenyl)thiazol-2-yl]amino}methyl)benzoylamino]propionic acid methyl ester (0.10 g, 0.16 mmol) was dissolved in methanol (5 mL) and 1 N aqueous sodium hydroxide (0.16 mL, 0.16 mmol) was added and the resulting mixture was stirred at room temperature for 16 hours. 1 N hydrochloric acid (0.17 mL) and water (50 mL) were added and the mixture was extracted with ethyl acetate (50 mL). The organic phase was washed with water (50 mL), dried (MgSO4) and concentrated in vacuo. This afforded 0.06 g (61%) of the title compound.

reactant | 2(R)-Hydroxy-3-[4-({indan-5-yl-[4-(4-trifluoromethoxyphenyl)thiazol-2-yl]amino}methyl)benzoylamino]propionic acid methyl ester | 0.16 mmol, 0.10 g | COC([C@@H](CNC(C1=CC=C(C=C1)CN(C=1SC=C(N1)C1=CC=C(C=C1)OC(F)(F)F)C=1C=C2CCCC2=CC1)=O)O)=O | C31H28F3N3O5S
reactant | sodium hydroxide | 0.16 mmol, 1 N, 0.16 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 N, 0.17 mL | Cl | ClH
reactant | water | 50 mL | O | H2O
solvent | methanol | 5 mL | CO | CH4O
product | 2(R)-Hydroxy-3-[4-({indan-5-yl-[4-(4-trifluoromethoxyphenyl)thiazol-2-yl]amino}methyl)benzoylamino]propionic acid | O[C@@H](C(=O)O)CNC(C1=CC=C(C=C1)CN(C=1SC=C(N1)C1=CC=C(C=C1)OC(F)(F)F)C=1C=C2CCCC2=CC1)=O | C30H26F3N3O5S
